US04329293
Sulfuryl chloride (1.5 g, 0.011 mole) was added dropwise to 7.9 g of a 44.9% solution of bis(dibutylamino)disulfide (0.011 mole) in hexane while maintaining a temperature of 20° C. The mixture was stirred for fifteen minutes after the end of addition. 1-Naphthyl methylcarbamate (4.0 g, 0.020 mole) was added followed by dropwise addition of triethylamine (3.54 g, 0.035 mole) over a period of three minutes with stirring, during which time the temperature increased from 21° C. to 30° C. The temperature was increased by heating to 44° C. for two hours. The mixture was cooled to 11° C. and 15 ml of water was added. The aqueous layer was separated and the organic layer was concentrated to give 7.22 g of 94% (by hplc) 1-naphthyl (dibutylaminothio)methylcarbamate.

reactant | Sulfuryl chloride | 0.011 mole, 1.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | bis(dibutylamino)disulfide | 0.011 mole | C(CCC)N(CCCC)SSN(CCCC)CCCC | C16H36N2S2
reactant | 1-Naphthyl methylcarbamate | 0.020 mole, 4.0 g | CNC(OC1=CC=CC2=CC=CC=C12)=O | C12H11NO2
reactant | triethylamine | 0.035 mole, 3.54 g | C(C)N(CC)CC | C6H15N
solvent | hexane | CCCCCC | C6H14
solvent | water | 15 ml | O | H2O
product | 1-naphthyl (dibutylaminothio)methylcarbamate | 94% | C(CCC)N(SCNC(OC1=CC=CC2=CC=CC=C12)=O)CCCC | C20H28N2O2S
